US04855480
A solution of 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoic acid (31.6 grams; 0.12 mole) and concentrated sulfuric acid (2 mL) in methanol (100 mL) was heated at reflux for two hours and then stirred for 48 hours at ambient temperature. The reaction mixture was then heated for an additional four hours. The reaction mixture was concentrated under reduced pressure. Water (30 mL) and methylene chloride (30 mL) were added to the residue. The mixture was then neutralized with aqueous sodium carbonate and extracted with methylene chloride. The dried (magnesium sulfate) extract was concentrated under reduced pressure to yield 27.0 grams of methyl 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoate.

reactant | 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoic acid | 0.12 mole, 31.6 grams | ClC1=C(C=NOCC(C(=O)O)(C)C)C=CC=C1 | C12H14ClNO3
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 mL | CO | CH4O
product | methyl 2-(2-chlorobenzylideneaminooxymethyl)-2-methylpropanoate | 27.0 grams | ClC1=C(C=NOCC(C(=O)OC)(C)C)C=CC=C1 | C13H16ClNO3
